US06677368B2
To a solution of 4-(4-trifluoromethoxy-phenyl)-1,3-dihydro-indol-2-one (73.3 mg, 0.25 mmol) and 5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (2-[1,2,3]triazol-1-yl-ethyl)-amide (67.9 mg, 0.26 mmol) in ethanol (2 mL) was added piperidine (3 drops). The reaction mixture was stirred at room temperature for three days. A yellow solid product was precipitated out, filtered, washed by ethanol for three times, and dried under high vacuum to provide pure product 2,4-dimethyl-5-[2-oxo-4-(4-trifluoromethoxy-phenyl)-1,2-dihydro-indol-3-ylidenemethyl]-1H-pyrrole-3-carboxylic acid (2-[1,2,3]triazol-1-yl-ethyl)-amide as a yellow solid (49.6 mg, 37%).

reactant | 4-(4-trifluoromethoxy-phenyl)-1,3-dihydro-indol-2-one | 0.25 mmol, 73.3 mg | FC(OC1=CC=C(C=C1)C1=C2CC(NC2=CC=C1)=O)(F)F | C15H10F3NO2
reactant | 5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (2-[1,2,3]triazol-1-yl-ethyl)-amide | 0.26 mmol, 67.9 mg | N1(N=NC=C1)CCNC(=O)C1=C(NC(=C1C)C=O)C | C12H15N5O2
solvent | ethanol | 2 mL | C(C)O | C2H6O
catalyst | piperidine | 3 drops | N1CCCCC1 | C5H11N
product | 2,4-dimethyl-5-[2-oxo-4-(4-trifluoromethoxy-phenyl)-1,2-dihydro-indol-3-ylidenemethyl]-1H-pyrrole-3-carboxylic acid (2-[1,2,3]triazol-1-yl-ethyl)-amide | 49.6 mg, 37% | N1(N=NC=C1)CCNC(=O)C1=C(NC(=C1C)C=C1C(NC2=CC=CC(=C12)C1=CC=C(C=C1)OC(F)(F)F)=O)C | C27H23F3N6O3
